US05998433
a) Synthesis of N,N-diethyl-[5-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine
To a solution of 0.269 g (0.807 mmol) of 5-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine in 20 ml of acetic acid, 0.10 ml (0.97 mmol) of diethylamine and 79 mg (0.97 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 30 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=9/1) to yield the desired product.

reactant | 5-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 0.807 mmol, 0.269 g | C1(=CC=CC=C1)CCCCCS(=O)(=O)N1CC2=C(CC1)OC=C2 | C18H23NO3S
reactant | diethylamine | 0.97 mmol, 0.10 ml | C(C)NCC | C4H11N
reactant | formaldehyde | 0.97 mmol, 79 mg | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N,N-diethyl-[5-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | C(C)N(CC)CC1=CC=2CN(CCC2O1)S(=O)(=O)CCCCCC1=CC=CC=C1 | C23H34N2O3S
